US03988339
7-Chloro-8-trifluoromethylisoquinoline is converted to the hydrochloride and hydrogenated by the procedure of Example 9 to give 7-chloro-8-trifluoromethyl-1,2,3,4-tetrahydroisoquinoline hydrochloride.

reactant | 7-Chloro-8-trifluoromethylisoquinoline | ClC1=CC=C2C=CN=CC2=C1C(F)(F)F | C10H5ClF3N
reactant | hydrochloride | Cl | ClH
product | 7-chloro-8-trifluoromethyl-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.ClC1=CC=C2CCNCC2=C1C(F)(F)F | InChI=1S/C10H9ClF3N.ClH/c11-8-2-1-6-3-4-15-5-7(6)9(8)10(12,13)14;/h1-2,15H,3-5H2;1H
